Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP
 
History of Present Illness:
___ yo M with no significant PMH who presents with abdominal 
pain. Pain started 1 day prior to presentation. Pain started 
suddenly and is epigastric with radiation to the back. It has 
been constant. Pt also noted darknened urine. No nausea or 
vomiting. No fevers or chills. 

Pt presented to the ED for evaluation where he was noted to have 
transaminitis with Tbili of 5.1. RUQ u/s showed dilated CBD to 
13mm and intrahepatic dilatation. No leukocytosis or fevers 
noted. Pt given oxycodone and unasyn and admitted for further 
care.

ROS: otherwise negative 
 
Past Medical History:
Eczema
Allergic rhinitis
 
Social History:
___
Family History:
Brother with testicular CA. No family history of billiary 
disease.
 
Physical Exam:
Vitals: 98.5 144/86 68 16 98%ra
Gen: NAD
HEENT: sublingual icterus, moist MM
CV: RRR, no r/m/g
Pulm: clear b/l
Abd: soft, ttp in epigastrum
Ext: no edema
Neuro: alert and oriented x 3
 
Pertinent Results:
___ 02:33PM   WBC-6.6 RBC-4.64 HGB-14.3 HCT-41.2 MCV-89 
MCH-30.8 MCHC-34.7 RDW-11.9
___ 02:33PM   PLT COUNT-257
___ 02:33PM   GLUCOSE-127* UREA N-8 CREAT-0.8 SODIUM-141 
POTASSIUM-3.7 CHLORIDE-102 TOTAL CO2-24 ANION GAP-19
___ 02:33PM   ALT(SGPT)-419* AST(SGOT)-283* ALK PHOS-90 TOT 
BILI-5.1*
___ 02:33PM   LIPASE-30

___ 01:33PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-LG UROBILNGN-1 PH-7.0 LEUK-NEG

RUQ u/s: 
1. Dilated CBD (13mm) with mild intrahepatic biliary duct 
dilation. No definite obstructing mass or stone is seen in the 
CBD which appears to terminate abruptly in the pancreatic head. 
ERCP or MRCP may be obtained for further evaluation. 
2. Echogenic liver consistent with steatosis. Other forms of 
liver disease including hepatic fibrosis or cirrhosis or 
steatohepatitis cannot be excluded on the basis of this 
examination. 

 
Brief Hospital Course:
___ year old M with no significant medical history who presents 
with RUQ pain. 

# Biliary obstruction without cholangitis - went to ercp:

 Scout film was normal. 
Limited pancreatogram was normal 
The bile duct was deeply cannulated with the sphincterotome. 
There was a tapering of the distal CBD at the level of the 
ampulla. 
The CBD was dilated to 9-10mm in diameter. No filling defects 
were identified. 
The left and right hepatic ducts mildly dilated. 
A biliary sphincterotomy was made with a sphincterotome. There 
was no post-sphincterotomy bleeding. 
The biliary tree was swept with a 9-12mm balloon starting at the 
bifurcation without removal of stone or sludge. 
Brushings of the distal CBD were obtained for cytology. 
A ___ x 7cm plastic CBD stent was placed to ensure adequate 
biliary drainage. 
Excellent bile and contrast drainage was seen endoscopically and 
fluoroscopically.  
These findings could be consistent with a passed stone but 
subtle distal CBD stricture cannot be excluded 
Otherwise normal ercp to third part of the duodenum
 
Recommendations: NPO overnight with aggressive IV hydration with 
LR at 200 cc/hr 
If no abdominal pain in the morning, advance diet to clear 
liquids and then advance as tolerated 
Repeat ERCP in 4 weeks for stent pull and re-evaluation 
Follow up with cytology reports. Please call Dr. ___ 
___ ___ in 7 days for the pathology results. 
Follow for response and complications. If any abdominal pain, 
fever, jaundice, gastrointestinal bleeding please call ERCP 
fellow on call ___
 
Improved after this without any complications, on day of 
discharge, tolerating regular diet, no complaints, no fevers, no 
pain, voiding and independently ambulatory.  See instructions 
below for recommendations, and d/c paperwork please
 
Recommended repeat assessment of LFTs in one week, if still 
elevated/abnormal, should be referred to a hepatologist please
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fexofenadine Dose is Unknown  PO Frequency is Unknown 
2. Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID 

 
Discharge Medications:
1. Fexofenadine 60 mg PO BID 
2. Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
biliary obstruction from stone or stricture/narrowing

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
no aspirin, or other nsaids (ibuprofen etc) for at least one 
week

no alcohol or tylenol until you have your liver tests repeated 
by your primary MD next week and he ensures these are normal

Follow up with MDs as below
 
Followup Instructions:
___